US07838499B2
Preparation of 2-cyclopropoxyethyl 4-methylbenzenesulfonate (Intermediate BP)
To a solution of 2-cyclopropoxyethanol (400 mg, 3.92 mmol) in DCM (10 mL) were added TsCl (821 mg, 4.31 mmol) and Et3N (0.6 mL, 4.31 mmol). The reaction was stirred at room temperature overnight. Then, 1N HCl was added, and the reaction was extracted with DCM. The combined organic layers were washed with brine, dried over Na2SO4, and concentrated to give a yellow oil. The oil was purified by preparative TLC to obtain intermediate BP (50 mg) as a yellow oil.

reactant | 2-cyclopropoxyethanol | 3.92 mmol, 400 mg | C1(CC1)OCCO | C5H10O2
reactant | TsCl | 4.31 mmol, 821 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | Et3N | 4.31 mmol, 0.6 mL | CCN(CC)CC | C6H15N
reactant | HCl | 1N | Cl | ClH
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-cyclopropoxyethyl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCOC1CC1 | C12H16O4S
